US07465825B2
A solution of N-[4′-(2-butyl-benzofuran-3-ylmethyl)-4-(3-phenyl-propoxy)-biphenyl-3-yl]-oxalamic acid ethyl ester (120 mg, 0.204 mmol) in ethanol (3 mL) was treated with aq 1 N NaOH (0.3 mL, 1.5 equiv., 0.306 mmol) and stirred at room temperature. After stirring 1 h, the solution was acidified to pH<4 with 10% HCl, concentrated and purified by prep thin layer chromatography (10% methanol in dichloromethane) afforded N-[4′-(2-Butyl-benzofuran-3-ylmethyl)-4-(3-phenyl-propoxy)-biphenyl-3-yl]-oxalamic acid (32 mg, 28%). Rf 0.39 (10% methanol in dichloromethane), 1H NMR (DMSO-d6, 300 MHz) δ 10.26 (s, 1 H), 8.58 (d, J=2.1 Hz, 1 H), 7.43-7.05 (m, 16 H), 4.07 (t, J=6.0 Hz, 2 H), 3.95 (s, 2 H), 2.82-2.77 (m, 4 H), 2.13-1.97 (m, 2 H), 1.67-1.59 (m, 2 H), 1.37-1.24 (m, 2 H), 0.86 (t, J=7.5 Hz, 3 H).

reactant | N-[4′-(2-butyl-benzofuran-3-ylmethyl)-4-(3-phenyl-propoxy)-biphenyl-3-yl]-oxalamic acid ethyl ester | 0.204 mmol, 120 mg | C(C)OC(C(=O)NC=1C=C(C=CC1OCCCC1=CC=CC=C1)C1=CC=C(C=C1)CC1=C(OC2=C1C=CC=C2)CCCC)=O | C38H39NO5
reactant | NaOH | 0.306 mmol, 1 N, 0.3 mL, 1.5 equiv. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-[4′-(2-Butyl-benzofuran-3-ylmethyl)-4-(3-phenyl-propoxy)-biphenyl-3-yl]-oxalamic acid | 32 mg, 28% | C(CCC)C=1OC2=C(C1CC1=CC=C(C=C1)C1=CC(=C(C=C1)OCCCC1=CC=CC=C1)NC(C(=O)O)=O)C=CC=C2 | C36H35NO5
